US08530478B2
2,3′-Bipyridine-6′-carboxylic acid
In a 5 ml microwave vial were added 2-bromopyridine (0.093 ml, 0.949 mmol), methyl 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2-pyridinecarboxylate (300 mg, 1.139 mmol), bis(triphenylphosphine)palladium(II) chloride (133 mg, 0.190 mmol), sodium carbonate (302 mg, 2.85 mmol), 1,2-dimethoxyethane (1.5 ml), ethanol (1.000 ml) and water (0.500 ml). The reaction mixture was heated for 0.5 hours at 120° C. in the microwave. The mixture was diluted with MeOH and filtered through Celite®. The product was concentrated in vacuo then filtered through a 20 g SCX cartridge (washed with MeOH, eluted with 1M NH3 in MeOH) and evaporated in vacuo. The product was triturated with ether and concentrated under vacuo. The product was diluted in DCM then 1 ml of 1M HCl in ether added and the product was concentrated in vacuo then was dissolved in MeCN/DMSO 1:1 and purified by MDAP. The desired fractions were collected and concentrated under vacuo to give the title compound (44 mg).

reactant | 2-bromopyridine | 0.949 mmol, 0.093 ml | BrC1=NC=CC=C1 | C5H4BrN
reactant | methyl 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2-pyridinecarboxylate | 1.139 mmol, 300 mg | CC1(OB(OC1(C)C)C=1C=CC(=NC1)C(=O)OC)C | C13H18BNO4
reactant | sodium carbonate | 2.85 mmol, 302 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | 1,2-dimethoxyethane | 1.5 ml | COCCOC | C4H10O2
solvent | MeOH | CO | CH4O
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.190 mmol, 133 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | water | 0.500 ml | O | H2O
solvent | ethanol | 1.000 ml | C(C)O | C2H6O
product | 2,3′-Bipyridine-6′-carboxylic acid | 44 mg | N1=C(C=CC=C1)C=1C=NC(=CC1)C(=O)O | C11H8N2O2
